US05428168
To stirred solution of 1-bromo-3,4,5-trimethoxybenzene (2.47 g, 10 mmol) in THF (20 ml) at -78° C. was added 2.5M n-butyllithium in hexane (4.4 ml, 11 mmol). After 0.75 h the solution was cannulated into a mixture of 1M zinc(II) bromide in THF (11 ml, 11 mmol) and magnesium(II) bromide etherate (2.86 g, 15 mmol) in THF (10 ml) at -78° C. The resulting mixture was allowed to warm to room temperature over 1 h and then sonicated for 0.4 h. A solution of 2-benzenesulphonyl-5-methoxytetrahydrofuran (1.85 g, 7.5 mmol) in THF (10 ml)was added and the mixture stirred at room temperature for 1 h, sonicated for 1 h and stirred overnight. The reaction was quenched by the addition of aqueous ammonium chloride (20 ml). Work up and purification as described for Example 1(b) gave 2-(3,4,5-trimethoxyphenyl)-5 -methoxytetrahydrofuran (0.55 g, 27%) as a colourless oil.

reactant | 1-bromo-3,4,5-trimethoxybenzene | 10 mmol, 2.47 g | BrC1=CC(=C(C(=C1)OC)OC)OC | C9H11BrO3
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | hexane | 11 mmol, 4.4 ml | CCCCCC | C6H14
reactant | magnesium(II) bromide | 15 mmol, 2.86 g | [Br-].[Mg+2].[Br-]
reactant | 2-benzenesulphonyl-5-methoxytetrahydrofuran | 7.5 mmol, 1.85 g | C1(=CC=CC=C1)S(=O)(=O)C1OC(CC1)OC | C11H14O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc(II) bromide | 1M | [Br-].[Zn+2].[Br-]
solvent | THF | 11 mmol, 11 ml | C1CCOC1 | C4H8O
product | 2-(3,4,5-trimethoxyphenyl)-5 -methoxytetrahydrofuran | 0.55 g, 27% | COC=1C=C(C=C(C1OC)OC)C1OC(CC1)OC | C14H20O5
